US07727988B2
(1R,5S/1S,5R) 1-{3-[1-(4-chlorophenyl)-3-azabicyclo[3.1.0]hex-3-yl]propyl}-5-iodo-2,4(1H,3H)-pyrimidinedione (Prep81)
(1R,5S/1S,5R)-(1-{3-[1-(4-chlorophenyl)-3-azabicyclo[3.1.0]hex-3-yl]propyl}-5-iodo-3-(phenylcarbonyl)-2,4(1H,3H)-pyrimidinedione (Prep 80, 190 mg, 0.330 mmol) was dissolved in 3% ammonia in MeOH (4 ml, 5.55 mmol). The mixture was stirred at room temperature for 3 hours the solvent was then evaporated under vacuum and the crude purified by SPE Si cartridge (20 g) eluting with Toluene/acetone 80/20 to give an oil that was then loaded through SCX (5 g) cartridge to recover the title compound (130 mg, 0.276 mmol, 4.97% yield) as a light yellow oil.

reactant | 1-{3-[1-(4-chlorophenyl)-3-azabicyclo[3.1.0]hex-3-yl]propyl}-5-iodo-3-(phenylcarbonyl)-2,4(1H,3H)-pyrimidinedione | 0.330 mmol, 190 mg | ClC1=CC=C(C=C1)C12CN(CC2C1)CCCN1C(N(C(C(=C1)I)=O)C(=O)C1=CC=CC=C1)=O | C25H23ClIN3O3
reactant | MeOH | 5.55 mmol, 4 ml | CO | CH4O
solvent | ammonia | N | H3N
product | 1-{3-[1-(4-chlorophenyl)-3-azabicyclo[3.1.0]hex-3-yl]propyl}-5-iodo-2,4(1H,3H)-pyrimidinedione | 0.276 mmol, 130 mg, 4.97% yield | ClC1=CC=C(C=C1)C12CN(CC2C1)CCCN1C(NC(C(=C1)I)=O)=O | C18H19ClIN3O2
